US08748624B2
STEP D: 3-(5-(2-(((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.10 mL, 0.30 mmol) was added to a THF (4 mL) and MeOH (2 mL) solution of ethyl 3-(5-(2-(((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate (60 mg, 0.10 mmol) and the resulting homogeneous mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off, dried in vacuo, and purified via HPLC to yield the title compound.

reactant | NaOH | 0.30 mmol, 0.10 mL | [OH-].[Na+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(2-(((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.10 mmol, 60 mg | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C32H29ClF3N3O3
solvent | MeOH | 2 mL | CO | CH4O
product | 3-(5-(2-(((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O)C | C30H25ClF3N3O3
